US07491520B2
4-Phthalimidobutanal (120.9 g, 556 mmol) was then dissolved in 600 ml of CH2Cl2 and treated with methyl(triphenylphosphoranylidene)acetate (186 g, 556 mmol) in 600 ml of CH2Cl2. After 1 h the mixture was concentrated in vacuo and chromatographed in seven equal portions (Merck Kieselgel 60; 7×14 cm column; eluent 30% ethyl acetate in hexane) to give 145.6 g (96%) of methyl-6-phtalimidohex-2-enoate as a white solid.

reactant | 4-Phthalimidobutanal | 556 mmol, 120.9 g | C1(C=2C(C(N1CCCC=O)=O)=CC=CC2)=O | C12H11NO3
reactant | methyl(triphenylphosphoranylidene)acetate | 556 mmol, 186 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | methyl-6-phtalimidohex-2-enoate | 145.6 g, 96% | COC(C=CCCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C15H15NO4
